US07465795B2
4-amino-8-[4-methoxy-2-(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (116 mg, 0.375 mmol) and [4-methoxy-2-(trifluoromethyl)phenyl]boronic acid (164 mg, 0.75 mmol) were reacted to afford the title compound (124 mg, 82% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 9.02 (t, J=6.0 Hz, 1H), 8.45 (d, J=8.3 Hz, 1H), 7.67-7.78 (m, 2H), 7.26-7.38 (m, 3H), 3.91 (s, 3H), 3.29 (apparent q, J=7.0 Hz, 2H), 1.57 (apparent sextet, J=7.0 Hz, 2H), 0.90 (t, J=7.0 Hz, 3H). MS APCI, m/z=405 (M+H) HPLC 2.11 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.375 mmol, 116 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | [4-methoxy-2-(trifluoromethyl)phenyl]boronic acid | 0.75 mmol, 164 mg | COC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O3
product | 4-amino-8-[4-methoxy-2-(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide | 124 mg, 82% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C=C1)OC)C(F)(F)F)C(=O)NCCC | C20H19F3N4O2
